US07470679B2
N-(2-Bromo-5-fluorophenyl)pivalamide
Trimethylacetyl chloride (4.2 mL, 34.1 mL) was fast dropwise added to a solution of 2-bromo-5-fluorobenzenamine (4.31 g, 22.7 mmol) in CH2Cl2 (50 mL) at room temperature, followed by the addition of DIEA (7.9 mL, 45.4 mmol). The resulting mixture was stirred at room temperature for 2 hrs, and then partitioned between HCl (1N, 200 mL) and EtOAc(250 mL). After separation, the organic phase was washed with brine(50 mL), dried on MgSO4, concentrated on rotary vacuum, and purified on flash chromatography eluting with 20˜40% EtOAc/hexanes (1200 mL) to afford the expected product, as a colorless oil(6.07 g, 98% yield); 1H NMR (400 MHz, CDCl3) δppm 1.33 (s, 9H), 6.69 (ddd, J=8.81, 7.55, 3.02 Hz, 1H), 7.45 (dd, J=8.81, 5.79 Hz, 1H), 8.04 (s, 1H), 8.28 (dd, J=11.08, 3.02 Hz, 1H); Mass spec. 274.04 (MH+), Calc. for C11H13BrFNO 273.02.

reactant | Trimethylacetyl chloride | 4.2 mL | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 2-bromo-5-fluorobenzenamine | 22.7 mmol, 4.31 g | BrC1=C(C=C(C=C1)F)N | C6H5BrFN
reactant | DIEA | 45.4 mmol, 7.9 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(2-Bromo-5-fluorophenyl)pivalamide | BrC1=C(C=C(C=C1)F)NC(C(C)(C)C)=O | C11H13BrFNO
